US09212190B2
Into a 10-mL round-bottom flask was placed a solution of tert-butyl N-(4-[[(3R)-3-[(2S)-2-carbamoyl-2-hydroxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2 (6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (0.9 g, 1.49 mmol, 1.00 equiv) in dichloromethane (10 mL) at 0° C. under nitrogen. Then hydrochloric acid (12 M, 2.0 mL) was added and the resulting solution was stirred for 5 h at 0° C. After completion of the reaction, the solvents were evaporated under reduced pressure. The residue was neutralized with 2 M aqueous sodium bicarbonate and extracted with 3×60 mL of dichloromethane. The organic layers were combined and washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 520 mg (crude) of (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide as a yellow oil.

reactant | tert-butyl N-(4-[[(3R)-3-[(2S)-2-carbamoyl-2-hydroxyethyl]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2 (6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 1.49 mmol, 0.9 g, 1.00 equiv | C(N)(=O)[C@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)O | C24H34N4O5S
reactant | hydrochloric acid | 12 M, 2.0 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | 520 mg | O[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC | C19H26N4O3S
